US07557114B2
(a) 5-(5-Methyl-thiophen-3-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A23(b) from 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and 4-bromo-2-methylthiophene (commercial). Light yellow solid. MS (m/e): 315.2 ([M]+, 100%)

reactant | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)B1OC(C(O1)(C)C)(C)C | C19H28BNO4
reactant | 4-bromo-2-methylthiophene | BrC=1C=C(SC1)C | C5H5BrS
product | 5-(5-Methyl-thiophen-3-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C1=CSC(=C1)C | C18H21NO2S
